US05073550
A solution of 1.80 g of methyl 5-mercapto-7-(trifluoromethyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate in 800 ml of 25 percent aqueous ammonia was allowed to stand at 20° for 24 hours. The solution was concentrated to a small volume in a vacuum, made acidic with 1N hydrochloric acid, and extracted with ethyl acetate. The organic phase was washed with saturated sodium chloride solution, dried over sodium sulphate and evaporated in a vacuum. The residual crystal slurry was treated with petroleum ether and filtered. There was obtained 5-mercapto-7-(trifluoromethyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide.

reactant | methyl 5-mercapto-7-(trifluoromethyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | 1.80 g | SC1=NC=2N(C(=C1)C(F)(F)F)N=CC2C(=O)OC | C9H6F3N3O2S
reactant | ammonia | 800 ml | N | H3N
product | 5-mercapto-7-(trifluoromethyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | SC1=NC=2N(C(=C1)C(F)(F)F)N=CC2C(=O)N | C8H5F3N4OS
